US06008230
To a stirred suspension of 5-methyl-2-nitroaniline (10.0 g) in ethanol (20 ml) were added 2,2-dimethyl-1,3-dioxane-4,6-dione (9.95 g) and triethyl orthoformate (10.7 g) at 50° C. The resulting mixture was heated at 120° C. for one hour during which time ethanol (20 ml) was added to the mixture and ethanol liberated was distilled off. After cooling, ethyl acetate (40 ml) was added thereto and the resulting precipitate was collected by filtration. The solid was washed with hot ethanol (40 ml) and allowed to cool to ambient temperature. The precipitate was collected by filtration and air-dried to afford isopropylidene (5-methyl-2-nitroanilino)methylenemalonate (15.2 g) as yellow needles.

reactant | 5-methyl-2-nitroaniline | 10.0 g | CC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 9.95 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethyl orthoformate | 10.7 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | isopropylidene (5-methyl-2-nitroanilino)methylenemalonate | 15.2 g | CC=1C=CC(=C(NC=C2C(=O)OC(C)(C)OC2=O)C1)[N+](=O)[O-] | C14H14N2O6
